US07407982B2
C) 4-(Aminomethyl)-N(benzyloxycarbonyl)-piperidine
27.5 g (79.88 mmol) 4-(trifluoroacetyl-aminomethyl)-N(benzyloxycarbonyl)-piperidine are dissolved in 150 ml dioxane and 150 ml 1 N NaOH solution are added. The mixture is stirred for 3 hours at 40° C. and then the solvent is concentrated under vacuum. The residue is collected in water and extracted three times with DCM. The combined DCM phases are dried over Na2SO4 and then the solvent is concentrated under vacuum.

reactant | 4-(trifluoroacetyl-aminomethyl)-N(benzyloxycarbonyl)-piperidine | 79.88 mmol, 27.5 g | FC(C(=O)C(C1CCN(CC1)C(=O)OCC1=CC=CC=C1)N)(F)F | C16H19F3N2O3
reactant | NaOH | 1 N, 150 ml | [OH-].[Na+]
solvent | dioxane | 150 ml | O1CCOCC1 | C4H8O2
product | 4-(Aminomethyl)-N(benzyloxycarbonyl)-piperidine | NCC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C14H20N2O2
